* D:\BTP-1\BTP_LTspice.asc
V1 +V 0 5
V2 -V 0 -1
V3 N006 0 SINE(2 1 100)
M1 N002 N006 0 0 NMOS
XU1 N005 N002 +V -V N003 LT1007
XU2 N004 N001 +V -V V_OUT LT1007
R1 N001 N003 1K
R2 N004 +V 3K
R4 0 N005 3.5K
R5 N002 N003 10K
R6 +V N005 3K
R3 N004 0 5K
R7 V_OUT N001 3K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Pranjal Singh\Pranjal\Documents\LTspiceXVII\lib\cmp\standard.mos
;tran 100m
.dc V3 1 3 0.1
.lib LTC.lib
.backanno
.end
